### PR TITLE
WIP on defining graded rings

### PR DESCRIPTION
**Pull request by mortberg**
I got pretty much everything formalized except for associativity of multiplication which is very hard to get right because of dependent types

### CODE REVIEW

File: Cubical/Algebra/Ring/Graded.agda [hunk 1]
```diff
@@ -0,0 +1,664 @@
...
+                                             ·G z (n ∸ toℕ i)))
+           ≡⟨ refl ⟩
+             (((x , hx) ·⊕G (y , hy)) ·⊕G (z , hz)) .fst n ∎
+      where
+      open MonoidBigOp (Group→Monoid (AbGroup→Group (G n))) renaming (bigOp to ∑)
+
+      helper2 : {n : ℕ} (i : Fin (suc n)) → (j : Fin (suc (n ∸ toℕ i))) → toℕ i +ℕ toℕ j +ℕ (n ∸ toℕ i ∸ toℕ j) ≡ toℕ i +ℕ (n ∸ toℕ i)
+      helper2 {n} i j = (sym (+-assoc (toℕ i) (toℕ j) (n ∸ toℕ i ∸ toℕ j)) ∙ cong (toℕ i +ℕ_) (helper j))
+
+      finalstepGen : (n : ℕ)
```
Comment (mortberg) [inline Cubical/Algebra/Ring/Graded.agda:376]: This is where I'm stuck...

**Comment by ecavallo** [comment]
Would it make things any easier to use a natural number bound instead of a finite set? Like this:
```
  IsFiniteSequence : ((i : ℕ) → G i .fst) → Type ℓ
  IsFiniteSequence f = ∃[ n ∈ ℕ ] (∀ k → n ≤ k → f k ≡ 0G)

  ⊕G : Type ℓ
  ⊕G = Σ[ f ∈ ((i : ℕ) → G i .fst) ] IsFiniteSequence f
```
It at least saves you from some universe level inflation. I experimented with rewriting some but stopped at the hard part: https://github.com/ecavallo/cubical/blob/gradedring/Cubical/Algebra/Ring/Graded.agda Up until that point it doesn't change much, although the finite set lemmas can be avoided.

**Comment by mortberg** [comment]
Closing this now that we have a better version.

@thomas-lamiaux  might want to take a closer look at this for comparison later
